US08198466B2
To a mixture of 2.01 g (1.3 mmol) of 2-nitroresorcinol in 15 ml of dry pyridine 0.28 ml (1.36 mmol) of acetic anhydride was added dropwise at 0° C. The resulting mixture was allowed to warm to room temperature. After 1 h of stirring at room temperature the solvent was removed by evaporation in vacuo and the residue diluted to 10 ml with anhydrous acetonitrile. To this 2 g of anhydrous potassium carbonate was added followed by the addition of 1.5 ml of methyl iodide. The resulting suspension was stirred overnight at room temperature, filtered off and filtrate evaporated to dryness under reduced pressure to give 2.63 g of crude 3-methoxy-2-nitrophenyl acetate. This was dissolved in 15 ml of acetonitrile and 2 ml of concentrated ammonium hydroxide was added. The resulting mixture was allowed to stand for 30 minutes at room temperature and evaporated to dryness under reduced pressure. The residue was purified by flash column chromatography to give 1.36 g (62% yield) of pure title compound as red crystals; 1H NMR (CDCl3) 3.92 (s, 3H, OMe); 6.51 (d, 1H, CH, J=8.5 Hz); 6.68 (d, 1H, CH, J=8.5 Hz); 7.35 (m, 1H, CH); 10.18 (s, 1H, OH).

reactant | 2-nitroresorcinol | 1.3 mmol, 2.01 g | [N+](=O)([O-])C1=C(O)C=CC=C1O | C6H5NO4
reactant | pyridine | 1.36 mmol, 15 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-methoxy-2-nitrophenyl acetate | 2.63 g | C(C)(=O)OC1=C(C(=CC=C1)OC)[N+](=O)[O-] | C9H9NO5
